US09403758B2
To a solution of methyl 4-ethynylbenzoate (50 g, 0.31 mol) in acetone (750 mL) was added AgNO3 (5 g, 29.7 mmol) and the reaction mixture was stirred for 1 hr. NBS (61.2 g, 0.34 mol) was added and the reaction mixture was stirred at room temperature for 20 hr, filtered and concentrated under reduced pressure. The residue was diluted in EA, and washed with iced 20% H2SO4. The organic layer was washed with water and brine, dried (Na2SO4), filtered, concentrated under reduced pressure to give a residue, which was recrystallized from MeOH (1 mL/4 g) to yield methyl 4-(bromoethynyl)benzoate (INT-1.4) as an off-yellow solid (67 g, 90%). 1H NMR (400 MHz, CDCl3) δ 7.98 (d, J=8.8 Hz, 2H), 7.51 (d, J=8.8 Hz, 2H), 3.92 (s, 3H).

reactant | methyl 4-ethynylbenzoate | 0.31 mol, 50 g | C(#C)C1=CC=C(C(=O)OC)C=C1 | C10H8O2
reactant | NBS | 0.34 mol, 61.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetone | 750 mL | CC(=O)C | C3H6O
catalyst | AgNO3 | 29.7 mmol, 5 g | [N+](=O)([O-])[O-].[Ag+]
product | methyl 4-(bromoethynyl)benzoate | 67 g, 90% | BrC#CC1=CC=C(C(=O)OC)C=C1 | C10H7BrO2
